US05219862
6-cyano-8beta-hydroxymethyl-2-morpholinomethyl-ergoline
3.95 g of 6-cyano-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester (10 mmol) is dissolved in 250 ml of tetrahydrofuran and 250 ml of methanol and altogether 4 g of sodium borohydride is added in four portions at room temperature. After two hours of reaction time, the organic phases are mixed with ice and common salt, shaken with ethyl acetate, combined and dried and concentrated by evaporation. After crystallization from the ethyl acetate, 3.26 g (89% of theory) is obtained, [α]D =+46° (0.5% in pyridine).

reactant | 6-cyano-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester | 10 mmol, 3.95 g | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)CN3CCOCC3)C#N | C22H26N4O3
reactant | methanol | 250 ml | CO | CH4O
reactant | sodium borohydride | 4 g | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-cyano-8beta-hydroxymethyl-2-morpholinomethyl-ergoline | C(#N)N1C[C@@H](C[C@@H]2C=3C=CC=C4NC(=C(C[C@@H]12)C34)CN3CCOCC3)CO | C21H26N4O2
